US09034874B2
c) 6-(4-hydroxypiperidin-1-yl)pyridazin-3(2H)-one
To a solution of 6-chloropyridazin-3(2H)-one (2.6 g, 20 mmol) in DIPEA (30 mL) was added piperidin-4-ol (2.4 g, 20 mmol) and the mixture was stirred at 120° C. for 8 h. The reaction mixture was concentrated under reduced pressure to afford the crude product, which was further purified by silica gel chromatography (DCM/MeOH=20/1) to afford the title compound (3.9 g, 100%) as a yellow solid. [LCMS: Rt=0.77 min, m/z 196.2 (M+H)+].

reactant | 6-chloropyridazin-3(2H)-one | 20 mmol, 2.6 g | ClC=1C=CC(NN1)=O | C4H3ClN2O
reactant | piperidin-4-ol | 20 mmol, 2.4 g | N1CCC(CC1)O | C5H11NO
solvent | DIPEA | 30 mL | CCN(C(C)C)C(C)C | C8H19N
product | 6-(4-hydroxypiperidin-1-yl)pyridazin-3(2H)-one | 3.9 g, 100% | OC1CCN(CC1)C=1C=CC(NN1)=O | C9H13N3O2
